US04060528
To a stirred and refluxing solution of 3.06 parts of 2-amino-2-thiazoline in 60 parts of dioxane is added a solution of 4.2 parts of p-(2-thenoyl)hydratropoyl chloride in 45 parts of dioxane. Upon completion, stirring at reflux is continued for 30 minutes. The reaction mixture is cooled, filtered and the filtrate is evaporated. The residue is purified by column-chromatography over silicagel, using a mixture of chloroform and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from ethanol, yielding N-(2-thiazolin-2-yl)-p-(2-thenoyl)hydratropamide; mp. 186.4° C.

reactant | 2-amino-2-thiazoline | NC=1SCCN1 | C3H6N2S
reactant | p-(2-thenoyl)hydratropoyl chloride | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)Cl)C)C=C1 | C14H11ClO2S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(2-thiazolin-2-yl)-p-(2-thenoyl)hydratropamide | S1C(=NCC1)NC(C(C)C1=CC=C(C=C1)C(C1=CC=CS1)=O)=O | C17H16N2O2S2
